2153-04-25 07:24:00 Physician Resident Progress Note
Chief Complaint: Atrial fibrillation/flutter with RVR to 160s
   24 Hour Events:
 FEVER - 102.4
F - [**2153-4-24**] 05:30 PM
   Received 150mg IV amiodarone twice
   Then 10mg IV diltiazem, followed by gtt to 15mg/hr
   Then Lopressor 5mg IV times 2
   HR persisted in 150s
   Then was given verapamil 10mg IVx1 and had excellent response to HR 90s
   Was then given 50mg PO lopressor and eventually HR still climbed back
   into 150s by 7am
   Was given another 10mg IV verapamil with pre-treatment with 2gm IV
   calcium gluconate
   C/O abdominal pain, got KUB which was negative, surgery team evaluated
   patient this AM and were not concerned given his difficult surgery
   yesterday and he is on abx to cover for past sensitivites from [**2-24**]
   ABG unrevealing 7.43/47/71
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-24**] 05:14 PM
   Metronidazole - [**2153-4-24**] 07:30 PM
   Vancomycin - [**2153-4-24**] 08:00 PM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2153-4-24**] 07:40 PM
   Verapamil - [**2153-4-25**] 01:50 AM
   Metoprolol - [**2153-4-25**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain, RLQ
   Flowsheet Data as of  [**2153-4-25**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.5
C (99.5
   HR: 149 (92 - 156) bpm
   BP: 87/52(61) {80/50(56) - 110/68(76)} mmHg
   RR: 16 (0 - 24) insp/min
   SpO2: 94%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  1,233 mL
                                                                     13 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    753 mL
                                                                     13 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    420 mL
   Urine:
                                                                    785 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    448 mL
                                                                   -407 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.43/47/71/28/5
   Physical Examination
   General Appearance: Well nourished, mild discomfort
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: No(t) Normal), (Murmur: Systolic), irregularly
   irregular
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Bowel sounds present, Tender: RLQ, no RT or guarding,
   not passing flatus
   Extremities: Right: 1+, Left: 1+, dsg on right side
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   178 K/uL
   8.4 g/dL
   170 mg/dL
   2.3 mg/dL
   28 mEq/L
   4.2 mEq/L
   37 mg/dL
   97 mEq/L
   134 mEq/L
   24.3 %
   13.1 K/uL
        [image002.jpg]
                             [**2153-4-24**]  08:45 PM
                             [**2153-4-25**]  03:44 AM
                             [**2153-4-25**]  04:11 AM
   WBC
   13.1
   Hct
   24.3
   Plt
   178
   Cr
   2.3
   TropT
   0.08
   0.10
   TCO2
   32
   Glucose
   170
   Other labs: PT / PTT / INR:14.6/35.0/1.3, CK / CKMB /
   Troponin-T:34/2/0.10, ALT / AST:23/16, Alk Phos / T Bili:81/1.3,
   Amylase / Lipase:33/19, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL,
   LDH:190 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR negative
   Microbiology: blood and urine cx pending
   Assessment and Plan
   62M with hx of CABG, HTN, IDDM, POD1 from CCY and umbilical hernia
   repair transferred from 12R with his third episode of afib w/RVR
   RHYTHM: patient appears to be in Afib w/RVR, last ECg actually shows
   atrial flutter at 3:1, multiple reasons to go into afib/flutter due to
   recent post op, infection, overload, less likely PE
   -Received 150mg IV amiodarone twice. Then 10mg IV diltiazem, followed
   by gtt to 15mg/hr. Then Lopressor 5mg IV times 2. HR persisted in 150s,
   then was given verapamil 10mg IVx1 and had excellent response to HR
   90s. Was then given 50mg PO lopressor and eventually HR still climbed
   back into 150s by 7am
   - Was given another 10mg IV verapamil with pre-treatment with 2gm IV
   calcium gluconate
   - Cardiology consult
   - Hold AC for now given recent surgery, discussed with surgical team
   - Place on verapamil gtt  for ease of titration off if patient becomes
   hypotensive
   - optimize pain control
   - treating infectious process empirically
   - may need central line
   - consider CTA chest if becomes hypoxemic to evaluate for PE if not
   clearly a volume overload issue
   .
   ARF: Baseline Cr of 1.5, likely a result of poorly controlled
   diabetes.  Current Cr this AM is 2.3 from 1.7 on transfer.  FENA 0.4%.
   Suspect this may be due to component infection combined with transient
   hypotension in setting afib/flutter RVR causing ischemia of renal
   medullary cells with possible component ATN.
   - check urine sediment
   - mantain euvolemic to slightly positive
   - hold diuretics for now
   .
    CAD: causes of afib can be due to infarction.  Patient with slightly
   elevated Tn with flat CK.  Will continue Statin
   - ruled out for ACS with serial enzymes and ECG
   - ASA daily
   .
   PUMP: Known EF of 55% on recent ECHO.  Will hold antihypertensives and
   Bumex at this time.
   .
   Diabetes: HbA1c of 7.3 in [**2153-2-17**] with peripheral neuropathy and
   retinopathy.
   - continue Lantus 31U qhs and Regular insulin sliding scale.
   .
   Fevers: Unknown etiology at this point, but could be post surgical,
   atelectasis, drugs, or infection, among others.  Will empirically
   continue with Zosyn/Vanco as per past sensitivites.
   - continue Vanco/Zosyn, added flagyl yesterday
   - f/u cultures
   .
   CCY/Umbilical hernia repair: Patient appears to be hemodynamically
   stable since surgery aside from rhythm issues.  Surgery will continue
   to follow closely.
   -          Continue morphine PCA for pain control, add basal rate
   -          Incentive spirometry
   .
   Anemia: post operative, check PM CBC
   Chronic venous ulcerations: Will dress daily.  Wound Consult placed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-4-24**] 03:56 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: ICU care for now

2153-04-25 10:40:00 Physician Attending Progress Note
Chief Complaint: hypotension, afib with RVR
   HPI:
   63 yo male, with h/o CABG, PAF, on Coumadin, recently d/c in [**2-24**] after
   a MICU stay for cholecystitis.  Since then, 2 admits for afib/rvr,
   responsive to dilt gtt.  Came back to [**Hospital1 54**] yesterday for removal of
   gall bladder drain and CCY --> procedure converted from lap to open.
   Also had inguinal hernia repair.  Extubated post-op, on floor
   overnight.  Afib starting this AM to rates of 160s.  Empirically on
   vanc and Zosyn for fever up to 101.4.  BP on floor SBPs 90s
   24 Hour Events:
 FEVER - 102.4
F - [**2153-4-24**] 05:30 PM
   Refractory Afib
 Rx with Amio 150 mg x 2, Lopressor, Diltiazem,
   Verapamil without persistent effect. Most helpful has been IV Verapamil
   but impact is not sustained.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2153-4-24**] 07:30 PM
   Vancomycin - [**2153-4-25**] 09:14 AM
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-25**] 09:14 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2153-4-24**] 07:40 PM
   Verapamil - [**2153-4-25**] 01:50 AM
   Metoprolol - [**2153-4-25**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-25**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37
C (98.6
   HR: 145 (92 - 156) bpm
   BP: 107/65(76) {67/47(52) - 110/68(76)} mmHg
   RR: 24 (0 - 24) insp/min
   SpO2: 91%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 71 Inch
             Total In:
                                                                  1,233 mL
                                                                    409 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    753 mL
                                                                    409 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    620 mL
   Urine:
                                                                    785 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    448 mL
                                                                   -211 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: 7.43/47/71/28/5
   Physical Examination
    Gen: lying in bed, alert,
   CV: tachy, irreg irreg, ? sys m LLSB
   Chest: dimished BS bilat, no wheezes
   Abd: distened +BS tenderness to palp diffusely but no rebound or
   guarding
   Ext: 1+ edema
   Labs / Radiology
   8.4 g/dL
   178 K/uL
   170 mg/dL
   2.3 mg/dL
   28 mEq/L
   4.2 mEq/L
   37 mg/dL
   97 mEq/L
   134 mEq/L
   24.3 %
   13.1 K/uL
        [image002.jpg]
                             [**2153-4-24**]  08:45 PM
                             [**2153-4-25**]  03:44 AM
                             [**2153-4-25**]  04:11 AM
   WBC
   13.1
   Hct
   24.3
   Plt
   178
   Cr
   2.3
   TropT
   0.08
   0.10
   TCO2
   32
   Glucose
   170
   Other labs: PT / PTT / INR:14.6/35.0/1.3, CK / CKMB /
   Troponin-T:34/2/0.10, ALT / AST:23/16, Alk Phos / T Bili:81/1.3,
   Amylase / Lipase:37/24, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL,
   LDH:190 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   63 yo male with afib/RVR s/p planned lap converted to open CCY.
   1. Afib: Pt with propensity for afib given recent history.  Now in
   persistent Aflutter at 150 with relatve hypotension. [**Month (only) 60**] actually be in
   flutter given rate of 150.  Has been bolused with 150mg of amiodarone
   x2 without much effect last night then tried dilt gtt- this has worked
   for him in the past but not now.
   Will try IV Verapamil drip with small po load, Consult cards, discuss
   role of CVL thoutgh with TR may not be that helpful in assessing vol
   status and CXR looks overloaded so would not favor blousing.
   Control all sympathetic tone, antipyretics, pain meds
   2. ARF: ddx pre renal versus ATN, got IVF in OR and is maintaining UOP
   2. Fever: No definite source of infection, but recently post-op with
   question of bile in abdomen.  Empiric vanc/Zosyn/Flagyl for now. Serial
   abd exams.
   3. DM2: Cont lantus + RISS.  Wound consult for chronic ulceration
   ICU Care
   Nutrition: NPO post op, advancing per surgery to clears
   Glycemic Control:
   Lines: PIV- may need CVL if BP not stable
   Communication:  with pt and surgical collegues
   Code status: Full code
   Disposition : ICU
   Total time spent: 40

2153-04-26 07:49:00 Physician Resident Progress Note
Chief Complaint: AFLUTTER/FIB RVR
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2153-4-25**] 03:14 PM
 URINE CULTURE - At [**2153-4-25**] 05:06 PM
 BLOOD CULTURED - At [**2153-4-25**] 05:38 PM
 FEVER - 102.0
F - [**2153-4-25**] 06:00 PM
   - Chemical Cardioversion with ibutilide 1gm x2, with great success -
   converted to sinus at 7:30pm
   - Held off on Amio overnight due to concern for prolonged QT- will
   reasses in AM.
   - Vanc trough 24, held AM dose, repeat trough in AM.
   - EF 70%, no PA hypertension, biatrial enlargement, normal CI
   - No central line as pressures improved during day to 140's.
   - PM Hct stable at 24
   - Febrile in PM, sent Blood, Urine, CXR in AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-4-25**] 09:14 AM
   Metronidazole - [**2153-4-26**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2153-4-26**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.9
C (98.5
   HR: 97 (89 - 158) bpm
   BP: 139/66(84) {67/47(52) - 152/120(126)} mmHg
   RR: 11 (0 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118 kg (admission): 116 kg
   Height: 71 Inch
             Total In:
                                                                  2,092 mL
                                                                    496 mL
   PO:
                                                                    720 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,372 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    730 mL
   Urine:
                                                                  1,950 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    142 mL
                                                                   -234 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), reguler
   rhythym
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Tender: RLG, improved yest, no RT or guarding
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   164 K/uL
   7.5 g/dL
   135 mg/dL
   2.4 mg/dL
   29 mEq/L
   3.9 mEq/L
   40 mg/dL
   97 mEq/L
   134 mEq/L
   22.5 %
   10.1 K/uL
        [image002.jpg]
                             [**2153-4-24**]  08:45 PM
                             [**2153-4-25**]  03:44 AM
                             [**2153-4-25**]  04:11 AM
                             [**2153-4-25**]  05:36 PM
                             [**2153-4-26**]  03:37 AM
   WBC
   13.1
   12.4
   10.1
   Hct
   24.3
   24.3
   22.5
   Plt
   178
   199
   164
   Cr
   2.3
   2.4
   TropT
   0.08
   0.10
   TCO2
   32
   Glucose
   170
   135
   Other labs: PT / PTT / INR:13.7/31.3/1.2, CK / CKMB /
   Troponin-T:34/2/0.10, ALT / AST:18/15, Alk Phos / T Bili:76/1.0,
   Amylase / Lipase:37/24, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL,
   LDH:190 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   62M with hx of CABG, HTN, IDDM, POD1 from CCY and umbilical hernia
   repair transferred from 12R with his third episode of afib w/RVR
   RHYTHM: patient appears to be in Afib w/RVR, last ECg actually shows
   atrial flutter at 3:1, multiple reasons to go into afib/flutter due to
   recent post op, infection, overload, less likely PE
   -Received 150mg IV amiodarone twice. Then 10mg IV diltiazem, followed
   by gtt to 15mg/hr. Then Lopressor 5mg IV times 2. HR persisted in 150s,
   then was given verapamil 10mg IVx1 and had excellent response to HR
   90s. Was then given 50mg PO lopressor and eventually HR still climbed
   back into 150s by 7am
   - Was given another 10mg IV verapamil with pre-treatment with 2gm IV
   calcium gluconate
   - Cardiology consult
   - Hold AC for now given recent surgery, discussed with surgical team
   - Place on verapamil gtt  for ease of titration off if patient becomes
   hypotensive
   - optimize pain control
   - treating infectious process empirically
   - may need central line
   - consider CTA chest if becomes hypoxemic to evaluate for PE if not
   clearly a volume overload issue
   .
   ARF: Baseline Cr of 1.5, likely a result of poorly controlled
   diabetes.  Current Cr this AM is 2.3 from 1.7 on transfer.  FENA 0.4%.
   Suspect this may be due to component infection combined with transient
   hypotension in setting afib/flutter RVR causing ischemia of renal
   medullary cells with possible component ATN.
   - check urine sediment
   - mantain euvolemic to slightly positive
   - hold diuretics for now
   .
    CAD: causes of afib can be due to infarction.  Patient with slightly
   elevated Tn with flat CK.  Will continue Statin
   - ruled out for ACS with serial enzymes and ECG
   - ASA daily
   .
   PUMP: Known EF of 55% on recent ECHO.  Will hold antihypertensives and
   Bumex at this time.
   .
   Diabetes: HbA1c of 7.3 in [**2153-2-17**] with peripheral neuropathy and
   retinopathy.
   - continue Lantus 31U qhs and Regular insulin sliding scale.
   .
   Fevers: Unknown etiology at this point, but could be post surgical,
   atelectasis, drugs, or infection, among others.  Will empirically
   continue with Zosyn/Vanco as per past sensitivites.
   - continue Vanco/Zosyn, added flagyl yesterday
   - f/u cultures
   .
   CCY/Umbilical hernia repair: Patient appears to be hemodynamically
   stable since surgery aside from rhythm issues.  Surgery will continue
   to follow closely.
   -          Continue morphine PCA for pain control, add basal rate
   -          Incentive spirometry
   .
   Anemia: post operative, check PM CBC
   Chronic venous ulcerations: Will dress daily.  Wound Consult placed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-4-24**] 03:56 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-04-26 11:23:00 Physician Attending Progress Note
Chief Complaint: afub with RVR, hypotension, ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2153-4-25**] 03:14 PM
         repeat ech ef 70%, no PHTN, CU > 2.5
   Chemically cardioverted with Ibutildide, po Amio held off until this AM
 URINE CULTURE - At [**2153-4-25**] 05:06 PM
 BLOOD CULTURED - At [**2153-4-25**] 05:38 PM
 FEVER - 102.0
F - [**2153-4-25**] 06:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2153-4-26**] 04:00 AM
   Vancomycin - [**2153-4-26**] 09:25 AM
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-26**] 10:06 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2153-4-26**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.2
C (100.8
   HR: 95 (89 - 158) bpm
   BP: 126/65(78) {89/53(64) - 152/120(126)} mmHg
   RR: 25 (0 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118 kg (admission): 116 kg
   Height: 71 Inch
             Total In:
                                                                  2,092 mL
                                                                    989 mL
   PO:
                                                                    720 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,372 mL
                                                                    509 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                  1,160 mL
   Urine:
                                                                  1,950 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    142 mL
                                                                   -172 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: reg rhythm, n1 s1/s2
   Respiratory / Chest: (Breath Sounds: Diminished
   Abdominal: Soft, Tender: rlq mild tenderness to deep palp
   Extremities: Right: 1+, Left: 1+
   Neurologic: slowed speech but oriented and appropriate
   Labs / Radiology
   7.5 g/dL
   164 K/uL
   135 mg/dL
   2.4 mg/dL
   29 mEq/L
   3.9 mEq/L
   40 mg/dL
   97 mEq/L
   134 mEq/L
   22.5 %
   10.1 K/uL
        [image002.jpg]
                             [**2153-4-24**]  08:45 PM
                             [**2153-4-25**]  03:44 AM
                             [**2153-4-25**]  04:11 AM
                             [**2153-4-25**]  05:36 PM
                             [**2153-4-26**]  03:37 AM
   WBC
   13.1
   12.4
   10.1
   Hct
   24.3
   24.3
   22.5
   Plt
   178
   199
   164
   Cr
   2.3
   2.4
   TropT
   0.08
   0.10
   TCO2
   32
   Glucose
   170
   135
   Other labs: PT / PTT / INR:13.7/31.3/1.2, CK / CKMB /
   Troponin-T:34/2/0.10, ALT / AST:18/15, Alk Phos / T Bili:76/1.0,
   Amylase / Lipase:37/24, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL,
   LDH:190 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   63 yo male with afib/RVR s/p planned lap choly converted to open CCY
   transfreed with afib with RVR
   1. Afib: Appreciate Cardiology consult - Tried chemical cardioversion
   with Ibutilide, converted seravl hours later- / true true  unrelated.
   Start po low dose Amio this AM.
   2. ARF: ddx pre renal versus ATN, now starting to autodiurese- watch
   UOP, and trend Cr stable at 2.4 but still above baseline
   2. Fever: No definite source of infection, but recently post-op with
   question of bile in abdomen and no other obvious sources. Though does
   have r>l pleural eff. All bd cx neg to date.  Empiric vanc/Zosyn/Flagyl
   for now. Serial abd exams.
   3. DM2: Cont lantus + RISS.  Wound consult for chronic ulceration
   ICU Care
   Nutrition: po [**Doctor First Name 470**] diet
   Glycemic Control:  prn
   Lines:
   20 Gauge - [**2153-4-26**] 11:11 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition : possibel call out to floor
   Total time spent:35

2153-04-27 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - HCT drop this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-4-26**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-27**] 04:00 AM
   Metronidazole - [**2153-4-27**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-4-26**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-27**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.6
C (99.6
   HR: 84 (84 - 98) bpm
   BP: 133/59(76) {104/52(66) - 144/67(86)} mmHg
   RR: 8 (0 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118 kg (admission): 116 kg
   Height: 71 Inch
             Total In:
                                                                  2,423 mL
                                                                    230 mL
   PO:
                                                                  1,140 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,283 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  3,966 mL
                                                                    690 mL
   Urine:
                                                                  3,966 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,543 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   226 K/uL
   6.5 g/dL
   172 mg/dL
   1.7 mg/dL
   31 mEq/L
   3.3 mEq/L
   34 mg/dL
   96 mEq/L
   134 mEq/L
   19.2 %
   7.6 K/uL
        [image002.jpg]
                             [**2153-4-24**]  08:45 PM
                             [**2153-4-25**]  03:44 AM
                             [**2153-4-25**]  04:11 AM
                             [**2153-4-25**]  05:36 PM
                             [**2153-4-26**]  03:37 AM
                             [**2153-4-26**]  02:51 PM
                             [**2153-4-27**]  04:27 AM
                             [**2153-4-27**]  06:07 AM
   WBC
   13.1
   12.4
   10.1
   8.9
   8.0
   7.6
   Hct
   24.3
   24.3
   22.5
   23.5
   17.2
   19.2
   Plt
   178
   199
   164
   200
   220
   226
   Cr
   2.3
   2.4
   1.7
   TropT
   0.08
   0.10
   TCO2
   32
   Glucose
   170
   135
   172
   Other labs: PT / PTT / INR:13.6/30.8/1.2, CK / CKMB /
   Troponin-T:34/2/0.10, ALT / AST:18/15, Alk Phos / T Bili:76/1.0,
   Amylase / Lipase:37/24, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL,
   LDH:190 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   62M with hx of CABG, HTN, IDDM, POD1 from CCY and umbilical hernia
   repair transferred from 12R with his third episode of afib w/RVR
   .
   Anemia: iron labs c/w iron deficiency, % sat <15, ferritin acute phase
   reactant, patient on iron as outpatient, rather precipitous drop.
   - STAT CT abdomen/pelvis
   - KUB negative for free air
   - transfuse 2 units PRBC
   - place back on iron PO when having bowel movements
   - hold coumadin, ASA, heparin SQ
   - surgery will follow closely, no indication to go back to OR currently
   .
   RHYTHM:
    - SR, continue Lopressor
   - add amiodarone 200mg PO BID for 7 days
   - cardiology following
   - consider CTA chest if becomes hypoxemic to evaluate for PE if not
   clearly a volume overload issue
   - hold coumadin given drop HCT
   - holding ASA
   .
   ARF: Baseline Cr of 1.5, likely a result of poorly controlled diabetes.
   FENA 0.4%. Suspect this may be due to component infection combined with
   transient hypotension in setting afib/flutter RVR causing ischemia of
   renal medullary cells with possible component ATN.
   - Cr back down to baseline
   - diurese with home bumex dose, negative 1.5 liters yesterday
   - volume overload
   - will benefit from increased perfussion to kidneys given in SR
   .
    CAD: causes of afib can be due to infarction.  Patient with slightly
   elevated Tn with flat CK.  Will continue Stati
   - ruled out for ACS with serial enzymes and ECG
   - ASA daily
   .
   PUMP: Known EF of 55% on recent ECHO.  Will hold antihypertensives.
   - repeat TTE EF 70%, likely diastolic HF given HTN
   .
   Diabetes: HbA1c of 7.3 in [**2153-2-17**] with peripheral neuropathy and
   retinopathy.
   - continue Lantus 31U qhs and Regular insulin sliding scale.
   - FS 147-188
   .
   Fevers: Unknown etiology at this point, but could be post surgical,
   atelectasis, drugs, or infection, among others.  Will empirically
   continue with Zosyn/Vanco as per past sensitivites.
   - continue Vanco/Zosyn/Flagyl
   - defervesced o/n
   - f/u cultures NGTD
   - cx if spikes
   .
   CCY/Umbilical hernia repair: Patient appears to be hemodynamically
   stable since surgery aside from rhythm issues.  Surgery will continue
   to follow closely.
   -          PO oxycodone
   -          Incentive spirometry
   .
   Chronic venous ulcerations: Will dress daily.  Wound Consult following
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-4-26**] 11:11 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-04-27 10:32:00 Physician Attending Progress Note
Chief Complaint: afib with RVR
   HPI:
   24 Hour Events:
   Remains in NSR
   AM HCT was 17, repeat 19, sent for stat abd CT and plan for Tx 2 UPRBC.
   Hemodynamically stable and no abd pain during episode
   Surgery aware
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-4-26**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-27**] 04:00 AM
   Metronidazole - [**2153-4-27**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-4-26**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2153-4-27**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.5
   HR: 83 (81 - 98) bpm
   BP: 140/62(80) {104/52(66) - 144/67(86)} mmHg
   RR: 12 (0 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118 kg (admission): 116 kg
   Height: 71 Inch
           Total In:
                                                                  2,423 mL
                                                                    725 mL
   PO:
                                                                  1,140 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,283 mL
                                                                    170 mL
   Blood products:
   375 mL
   Total out:
                                                                  3,966 mL
                                                                  1,240 mL
   Urine:
                                                                  3,966 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,543 mL
                                                                   -515 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: reg rhythm, n1 s1/s2
   Respiratory / Chest: (Breath Sounds: Diminished
   Abdominal: Soft, Tender: ruq mild tenderness to deep palp
   Extremities: Right: 1+, Left: 1+
   Neurologic: oriented and appropriate
   Labs / Radiology
   6.5 g/dL
   226 K/uL
   172 mg/dL
   1.7 mg/dL
   31 mEq/L
   3.3 mEq/L
   34 mg/dL
   96 mEq/L
   134 mEq/L
   19.2 %
   7.6 K/uL
         [image002.jpg]
                             [**2153-4-24**]  08:45 PM
                             [**2153-4-25**]  03:44 AM
                             [**2153-4-25**]  04:11 AM
                             [**2153-4-25**]  05:36 PM
                             [**2153-4-26**]  03:37 AM
                             [**2153-4-26**]  02:51 PM
                             [**2153-4-27**]  04:27 AM
                             [**2153-4-27**]  06:07 AM
   WBC
   13.1
   12.4
   10.1
   8.9
   8.0
   7.6
   Hct
   24.3
   24.3
   22.5
   23.5
   17.2
   19.2
   Plt
   178
   199
   164
   200
   220
   226
   Cr
   2.3
   2.4
   1.7
   TropT
   0.08
   0.10
   TCO2
   32
   Glucose
   170
   135
   172
   Other labs: PT / PTT / INR:13.6/30.8/1.2, CK / CKMB /
   Troponin-T:34/2/0.10, ALT / AST:18/15, Alk Phos / T Bili:76/1.0,
   Amylase / Lipase:37/24, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL,
   LDH:190 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   63 yo male with afib/RVR s/p planned lap choly converted to open CCY
   trans with afib with RVR
   1. Anemia: AM HCT 17, sent for STAT abd ct
 concerning for hematoma in
   gallbaldder fossa mostly old. Surgery called now. Will give 2 U PRBC.
   Did get coumadin last pm will hold and check afternoon coags.
   2 Afib: Appreciate Cardiology consult
 still in NSR on AMio
   3 ARF: ddx pre renal versus ATN, now starting to autodiurese and Cr
   close to baseline
   4 Fevers: overall trend is down, no definite source of infection, but
   recently post-op with question of bile in abdomen and no other obvious
   sources.. All bd cx neg to date.  Empiric vanc/Zosyn/Flagyl for now.
   Serial abd exams. Also with his blood on RUQ and elevated hemi and
   liver size he has compression of airways to RLL making him at risk for
   [**Female First Name (un) **], Would keep on ABX get out of bed and try to reinflate RLL- track
   closely soutum, cough, CXR
   5 DM2: Cont lantus + RISS.  Wound consult for chronic ulceration
   ICU Care
   Nutrition: per surgery
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-4-27**] 08:24 AM
   Prophylaxis:
   DVT: sq hep if stable HCT- hold coumadin
   Stress ulcer:
   Communication: with pt
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor
   Total time spent:

2153-04-28 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   HCT drop in AM
   CT showed bleed GB fossa, surgery not impressed
   2 units blood, stable HCT after
   holding asa and coumadin and sq heparin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-4-27**] 07:59 PM
   Metronidazole - [**2153-4-28**] 04:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-28**] 04:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: No(t) Abdominal pain, Nausea, No(t) Emesis, No(t)
   Diarrhea, Constipation, +flatus
   Flowsheet Data as of  [**2153-4-28**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.2
C (97.2
   HR: 80 (75 - 92) bpm
   BP: 149/69(87) {126/57(71) - 166/82(103)} mmHg
   RR: 20 (10 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118 kg (admission): 116 kg
   Height: 71 Inch
             Total In:
                                                                  3,050 mL
                                                                    150 mL
   PO:
                                                                  1,380 mL
             TF:
   IVF:
                                                                    920 mL
                                                                    150 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  3,635 mL
                                                                  1,100 mL
   Urine:
                                                                  3,635 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -585 mL
                                                                   -950 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: RUQ, Obese,
   Surgical incision is clean, dry, intact
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, Rash: LLE - chronic stasis changes
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   240 K/uL
   9.2 g/dL
   138 mg/dL
   1.5 mg/dL
   29 mEq/L
   3.9 mEq/L
   31 mg/dL
   99 mEq/L
   137 mEq/L
   27.0 %
   7.3 K/uL
        [image002.jpg]
                             [**2153-4-25**]  04:11 AM
                             [**2153-4-25**]  05:36 PM
                             [**2153-4-26**]  03:37 AM
                             [**2153-4-26**]  02:51 PM
                             [**2153-4-27**]  04:27 AM
                             [**2153-4-27**]  06:07 AM
                             [**2153-4-27**]  10:57 AM
                             [**2153-4-27**]  01:55 PM
                             [**2153-4-27**]  10:54 PM
                             [**2153-4-28**]  05:11 AM
   WBC
   12.4
   10.1
   8.9
   8.0
   7.6
   7.3
   Hct
   24.3
   22.5
   23.5
   17.2
   19.2
   23.4
   26.7
   26.2
   27.0
   Plt
   199
   164
   200
   220
   226
   240
   Cr
   2.4
   1.7
   1.5
   TCO2
   32
   Glucose
   135
   172
   138
   Other labs: PT / PTT / INR:13.4/27.0/1.1, CK / CKMB /
   Troponin-T:34/2/0.10, ALT / AST:18/15, Alk Phos / T Bili:76/1.0,
   Amylase / Lipase:37/24, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL,
   LDH:190 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Imaging: CT Abd:
   IMPRESSION:
   1. Large hematoma extending from the gallbladder fossa inferiorly. High
   density within the upper portion of the hematoma likely represents more
   acute
   bleeding. Active extravasation cannot be assessed without IV contrast.
   2. Second pocket of fluid anterior to the left lobe of the liver
   containing
   air pockets and heterogeneous fluid, likely postoperative sequelae, but
   possibly communicating with the large hematoma in the gallbladder
   fossa.
   3. Bilateral pleural effusions and lung base airspace opacities which
   could
   represent extensive atelectasis. Other considerations include
   aspiration or
   pneumonia.
   4. Unchanged appearance of enlarged kidneys with perinephric stranding,
   consistent with renal disease as discussed on recent ultrasound
   examinations.
   5. Stable appearance of calcified splenic lesion.
   .
   Findings discussed with Dr. [**First Name8 (NamePattern2) 2619**] [**Last Name (NamePattern1) 2433**] at the time of examination.
   .
   The study and the report were reviewed by the staff radiologist.
   Microbiology: BCx: NGTD
   Urine: Negative
   Assessment and Plan
   62M with hx of CABG, HTN, IDDM, POD1 from CCY and umbilical hernia
   repair transferred from 12R with his third episode of afib w/RVR
   .
   Anemia: Acute Hct drop yesterday [**1-20**] to GB fossa bleed.  Surgery not
   planning reintervention at this time.  Hct stable s/p 2 units PRBC;s.
    iron labs c/w iron deficiency, % sat <15, ferritin acute phase
   reactant, patient on iron as outpatient,
   - goal Hct 27, transfuse for Hct 24 or less as would indicate active
   bleeding.
   - place back on iron PO when having bowel movements
   - hold coumadin, ASA, heparin SQ
   - surgery will follow closely, no indication to go back to OR currently
   .
   RHYTHM:
    - SR, continue Lopressor
   - add amiodarone 200mg PO BID for 7 days
   - cardiology following
   - consider CTA chest if becomes hypoxemic to evaluate for PE if not
   clearly a volume overload issue
   - hold coumadin given drop HCT
   - holding ASA
   .
   Pulmonary: persistently hypoxic and requiring 3L NC.  [**Month (only) 60**] be
   splinting.  Pain control, IS.  Keep net out today as tolerated.
   Autodiuresing currently.
   .
   ARF: Baseline Cr of 1.5, likely a result of poorly controlled diabetes.
   FENA 0.4%. Suspect this may be due to component infection combined with
   transient hypotension in setting afib/flutter RVR causing ischemia of
   renal medullary cells with possible component ATN.
   - Cr back down to baseline
   - diurese with home bumex dose, negative 1.5 liters yesterday
   - volume overload
   - will benefit from increased perfussion to kidneys given in SR
   .
   CAD: causes of afib can be due to infarction.  Patient with slightly
   elevated Tn with flat CK.  Will continue Stati
   - ruled out for ACS with serial enzymes and ECG
   - ASA daily
   .
   PUMP: Known EF of 55% on recent ECHO.  Will hold antihypertensives.
   - repeat TTE EF 70%, likely diastolic HF given HTN
   .
   Diabetes: HbA1c of 7.3 in [**2153-2-17**] with peripheral neuropathy and
   retinopathy.
   - continue Lantus 31U qhs and Regular insulin sliding scale.
   - FS 175-194, will increase glargine.
   .
   Fevers: Unknown etiology at this point, but could be post surgical,
   atelectasis, drugs, or infection, among others.  Will empirically
   continue with Zosyn/Vanco as per past sensitivites.
   - continue Vanco/Zosyn/Flagyl for 7 day course.
   - afebrile x 48 hours
   - f/u cultures NGTD
   - cx if spikes
   .
   CCY/Umbilical hernia repair: Patient appears to be hemodynamically
   stable since surgery aside from rhythm issues.  Surgery will continue
   to follow closely.
   -          PO oxycodone
   -          Incentive spirometry
   .
   Chronic venous ulcerations: Will dress daily.  Wound Care Consult
   appreciated
   DISPO: Call out to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-4-27**] 08:24 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: Protonix
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-04-29 07:33:00 Physician Resident Progress Note
Chief Complaint: Afib with RVR and GB fossa bleed
   24 Hour Events:
   - PM Hct Stable
   - Called out.
   - Net out 2L on home Bumex only
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2153-4-28**] 07:56 PM
   Vancomycin - [**2153-4-28**] 07:58 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-28**] 09:57 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-4-28**] 08:17 AM
   Other medications:
   ISS
   Oxycodone prn
   Amiodarone 200mg [**Hospital1 **]
   Metoprolol 25 TID
   Trazodone QHS
   Atorvastatin
   PPI
   Bumex 4mg daily
   Albuterol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, Nausea, No(t) Emesis, No(t)
   Diarrhea, Passing flatus, no BM yet
   Neurologic: Headache
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-4-29**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 76 (70 - 91) bpm
   BP: 146/68(86) {120/58(73) - 155/73(93)} mmHg
   RR: 17 (0 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118 kg (admission): 116 kg
   Height: 71 Inch
                  Total In:
                                                                  1,580 mL
                  PO:
                                                                    880 mL
                  TF:
   IVF:
                                                                    700 mL
   Blood products:
   Total out:
                                                                  3,100 mL
                                                                    700 mL
   Urine:
                                                                  3,100 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,520 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Incision c/d/i
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, Tone:
   Not assessed
   Labs / Radiology
   235 K/uL
   9.3 g/dL
   151 mg/dL
   1.4 mg/dL
   33 mEq/L
   3.7 mEq/L
   30 mg/dL
   101 mEq/L
   139 mEq/L
   27.7 %
   5.8 K/uL
        [image002.jpg]
                             [**2153-4-26**]  03:37 AM
                             [**2153-4-26**]  02:51 PM
                             [**2153-4-27**]  04:27 AM
                             [**2153-4-27**]  06:07 AM
                             [**2153-4-27**]  10:57 AM
                             [**2153-4-27**]  01:55 PM
                             [**2153-4-27**]  10:54 PM
                             [**2153-4-28**]  05:11 AM
                             [**2153-4-28**]  02:32 PM
                             [**2153-4-29**]  05:16 AM
   WBC
   10.1
   8.9
   8.0
   7.6
   7.3
   5.8
   Hct
   22.5
   23.5
   17.2
   19.2
   23.4
   26.7
   26.2
   27.0
   27.7
   27.7
   Plt
   164
   200
   220
   [**Telephone/Fax (3) 2639**]
   Cr
   2.4
   1.7
   1.5
   1.4
   Glucose
   135
   172
   138
   151
   Other labs: PT / PTT / INR:13.4/28.7/1.1, CK / CKMB /
   Troponin-T:34/2/0.10, ALT / AST:18/15, Alk Phos / T Bili:76/1.0,
   Amylase / Lipase:37/24, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL,
   LDH:190 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Microbiology: Blood culture [**Date range (1) 2640**] NGTD
   Assessment and Plan
   62M with hx of CABG, HTN, IDDM, POD1 from CCY and umbilical hernia
   repair transferred from 12R with his third episode of afib w/RVR
   .
   Anemia: Acute Hct drop yesterday [**1-20**] to GB fossa bleed.  Surgery not
   planning reintervention at this time.  Hct stable s/p 2 units PRBC;s.
   iron labs c/w iron deficiency, % sat <15, ferritin acute phase
   reactant, patient on iron as outpatient,
   - goal Hct 27, transfuse for Hct 24 or less as would indicate active
   bleeding.
   - place back on iron PO when having bowel movements
   - hold coumadin, ASA, heparin SQ
   - surgery will follow closely, no indication to go back to OR currently
   .
   RHYTHM:
    - SR, continue Lopressor
   - add amiodarone 200mg PO BID for 7 days
   - cardiology following
   - consider CTA chest if becomes hypoxemic to evaluate for PE if not
   clearly a volume overload issue
   - hold coumadin given drop HCT
   - holding ASA
   .
   Pulmonary: persistently hypoxic and requiring 3L NC.  [**Month (only) 60**] be
   splinting.  Pain control, IS.  Keep net out today as tolerated.
   Autodiuresing currently.
   .
   ARF: Baseline Cr of 1.5, likely a result of poorly controlled diabetes.
   FENA 0.4%. Suspect this may be due to component infection combined with
   transient hypotension in setting afib/flutter RVR causing ischemia of
   renal medullary cells with possible component ATN.
   - Cr back down to baseline
   - diurese with home bumex dose, negative 1.5 liters yesterday
   - volume overload
   - will benefit from increased perfussion to kidneys given in SR
   .
   CAD: causes of afib can be due to infarction.  Patient with slightly
   elevated Tn with flat CK.  Will continue Stati
   - ruled out for ACS with serial enzymes and ECG
   - ASA daily
   .
   PUMP: Known EF of 55% on recent ECHO.  Will hold antihypertensives.
   - repeat TTE EF 70%, likely diastolic HF given HTN
   .
   Diabetes: HbA1c of 7.3 in [**2153-2-17**] with peripheral neuropathy and
   retinopathy.
   - continue Lantus 31U qhs and Regular insulin sliding scale.
   - FS 175-194, will increase glargine.
   .
   Fevers: Unknown etiology at this point, but could be post surgical,
   atelectasis, drugs, or infection, among others.  Will empirically
   continue with Zosyn/Vanco as per past sensitivites.
   - continue Vanco/Zosyn/Flagyl for 7 day course.
   - afebrile x 48 hours
   - f/u cultures NGTD
   - cx if spikes
   .
   CCY/Umbilical hernia repair: Patient appears to be hemodynamically
   stable since surgery aside from rhythm issues.  Surgery will continue
   to follow closely.
   -          PO oxycodone
   -          Incentive spirometry
   .
   Chronic venous ulcerations: Will dress daily.  Wound Care Consult
   appreciated
   DISPO: Call out to floor.
   ICU Care
   Nutrition:
   Comments: Regular diet as tolerated
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2153-4-27**] 08:24 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2153-04-29 07:50:00 Physician Attending Progress Note
Chief Complaint: rapid aflutter, s/p open CCY, Hct drop
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   2L neg on home Bumex
   Passing flatus but still no BM
   Took minimal POs yest
   OOB to chair
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2153-4-28**] 07:56 PM
   Vancomycin - [**2153-4-28**] 07:58 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-28**] 09:57 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-4-28**] 08:17 AM
   Other medications:
   Bumex
   Lipitor
   Lopressor 25 po tid
   Amio 200 po bid
   RISS, standing insulin
   Prn oxycodone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-29**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 76 (70 - 91) bpm
   BP: 146/68(86) {120/58(73) - 155/73(93)} mmHg
   RR: 17 (0 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118 kg (admission): 116 kg
   Height: 71 Inch
                  Total In:
                                                                  1,580 mL
                  PO:
                                                                    880 mL
                  TF:
   IVF:
                                                                    700 mL
   Blood products:
   Total out:
                                                                  3,100 mL
                                                                    700 mL
   Urine:
                                                                  3,100 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,520 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///33/
   Physical Examination
   Well nourished, NAD, obese, aaox3
   Normocephalic
   Nl s1s2, regular
   Bibasilar crackles
   Abd softly distended, obese, +BS, incision w/staples no drainage
   Extremities warm w/trace pitting edema b/l, venous stasis changes
   Labs / Radiology
   9.3 g/dL
   235 K/uL
   151 mg/dL
   1.4 mg/dL
   33 mEq/L
   3.7 mEq/L
   30 mg/dL
   101 mEq/L
   139 mEq/L
   27.7 %
   5.8 K/uL
        [image002.jpg]
                             [**2153-4-26**]  03:37 AM
                             [**2153-4-26**]  02:51 PM
                             [**2153-4-27**]  04:27 AM
                             [**2153-4-27**]  06:07 AM
                             [**2153-4-27**]  10:57 AM
                             [**2153-4-27**]  01:55 PM
                             [**2153-4-27**]  10:54 PM
                             [**2153-4-28**]  05:11 AM
                             [**2153-4-28**]  02:32 PM
                             [**2153-4-29**]  05:16 AM
   WBC
   10.1
   8.9
   8.0
   7.6
   7.3
   5.8
   Hct
   22.5
   23.5
   17.2
   19.2
   23.4
   26.7
   26.2
   27.0
   27.7
   27.7
   Plt
   164
   200
   220
   [**Telephone/Fax (3) 2639**]
   Cr
   2.4
   1.7
   1.5
   1.4
   Glucose
   135
   172
   138
   151
   Other labs: PT / PTT / INR:13.4/28.7/1.1, CK / CKMB /
   Troponin-T:34/2/0.10, ALT / AST:18/15, Alk Phos / T Bili:76/1.0,
   Amylase / Lipase:37/24, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL,
   LDH:190 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Micro:
   [**4-24**], [**4-25**] bld cxs NGTD
   Assessment and Plan
   62 yo M with h/o CAD s/p CABG and PAF s/p open CCY (lap converted to
   open) and hernia repair on [**4-23**] transferred to ICU from floor with
   aflutter, HD stable.  Now back in NSR.  Other issues have been fevers,
   now resolved/source unclear, and Hct drop, now stable after transfusion
   of 2U PRBC.
   1. Anemia: Hct 17-19 [**4-27**] am, now stable (~27) x 48hrs after 2U PRBC.
   Hematoma on abd CT, but surgery feels no need to intervene.  Decrease
   Hct checks to qd, tf for Hct<24.  Restart asa coumadin when ok per
   surgery.
   2. Afib: Did not respond to amio 150 x2, dilt gtt, lopressor, or
   verapamil gtt.  Finally converted back to NSR hours after receiving 2mg
   ibutilide on [**4-25**] afternoon.  Now on po amio and lopressor and still in
   SR.  Plan to cont amio x7d per EP.
   3. ARF: ddx pre renal versus ATN, now autodiuresing and Cr back to b/l
   4. Fevers: now afebrile x 72hrs.  Never had definite source of
   infection, but recently post-op with question of bile leak in abdomen.
   Hematoma also possible nidus for infection.  Finally, chronically
   elevated R hemi-diaphragm w/compression of RLL airways --> increased
   risk pna.  All cxs NGTD.  Empiric vanc/Zosyn/Flagyl- t/b w/surgery re:
   course.
   5. DM2: Cont lantus (increase given elevated BS yest) + RISS.
   6. Hypoxemia: likely [**1-20**] vol overload, pleural effusions, atelectasis,
   splinting.  Autodiuresing (on home bumex).  Ambulating, incentive
   [**Location (un) 2622**].
   7. FEN: regular diabetic diet
   8. Constipation: added senna as promotility [**Doctor Last Name **] given narcotics
   ICU Care
   Nutrition:
   Glycemic Control:  RISS, and standing insulin
   Lines:
   20 Gauge - [**2153-4-27**] 08:24 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor vs. Home soon if no flr bed
   Total time spent: